US08217069B2
9-[4-Carboxymethoxy-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-2-hydroxymethyl-6-methoxy-7,9-dihydro-8H-purin-8-one
A mixture of 2-acetyloxymethyl-9-[2-chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (60 mg) and lithium hydroxide monohydrate (81 mg) in tetrahydrofuran (4 mL)-methanol (2 mL)-water (2 mL) was stirred at room temperature for 1 hour. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous sodium sulfate. The solvent was removed under reduced pressure to give the title compound (42 mg).

reactant | 2-acetyloxymethyl-9-[2-chloro-4-ethoxycarbonylmethoxy-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 60 mg | C(C)(=O)OCC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C(=CC=C1OC)F)F)OCC(=O)OCC)Cl)=O)OC | C27H25ClF2N4O9
reactant | lithium hydroxide monohydrate | 81 mg | O.[OH-].[Li+]
reactant | methanol | 2 mL | CO | CH4O
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | 9-[4-Carboxymethoxy-2-chloro-5-(2,3-difluoro-6-methoxybenzyloxy)phenyl]-2-hydroxymethyl-6-methoxy-7,9-dihydro-8H-purin-8-one | 42 mg | C(=O)(O)COC1=CC(=C(C=C1OCC1=C(C(=CC=C1OC)F)F)N1C2=NC(=NC(=C2NC1=O)OC)CO)Cl | C23H19ClF2N4O8
